US07220861B2
The solution of 3.0 g of ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3-(2,4-difluorophenylamino)acrylate in 30 ml of anhydrous tetrahydrofuran was cooled to 10° C. 0.3 g (1.02 eq.) of 60% sodium hydride was added to the reaction mixture, which was refluxed for 4.5 hours. The reaction mixture was cooled to 5˜10° C. 54.6 ml of water was added to the reaction mixture, which was then stirred for 30 minutes. The organic layer was filtered under a reduced pressure and washed with a mixed solution of n-hexane and ether (1/1). The resulting wet cake was dried under a reduced pressure at 40˜45° C. for 6 hours to give 2.26 g of ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate (Yield: 82.8%).

reactant | ethyl 2-(2-chloro-4,5-difluorobenzoyl)-3-(2,4-difluorophenylamino)acrylate | 3.0 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2=C(C=C(C=C2)F)F)C=C(C(=C1)F)F | C18H12ClF4NO3
reactant | sodium hydride | 0.3 g, 1.02 eq. | [H-].[Na+]
reactant | water | 54.6 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 1-(2,4-difluorophenyl)-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | 2.26 g, Yield: 82.8% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C18H11F4NO3
